US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethoxy-benzoyl)-1H-[1,8]naphthyridin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 100 mg (0.248 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide in THF 2 ml, was added 1.09 ml (0.545 mmol) 3,4-dimethoxyphenylmagnesium bromide. The reaction mixture was stirred at room temperature for 30 min, then quenched with saturated solution of NH4Cl, extracted with ethyl acetate and purified with flash chromatography to give the desired product 22 mg. LCMS observed for (M+H)+: 480.

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.248 mmol, 100 mg | CON(C(=O)C1=CN(C2=NC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C17H15BrN4O3
reactant | 3,4-dimethoxyphenylmagnesium bromide | 0.545 mmol, 1.09 ml | COC=1C=C(C=CC1OC)[Mg]Br
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethoxy-benzoyl)-1H-[1,8]naphthyridin-4-one | 22 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CN=C12)=O)C(C1=CC(=C(C=C1)OC)OC)=O | C23H18BrN3O4
